US07615643B2
(1S)-1-(2-Chloro-3-nitrophenyl)ethanol
To ether cooled to −78° C. was added titanium (IV) chloride (0.85 mL, 7.8 mmol) and a 1.6M solution of methyl lithium in ether (4.9 ml, 7.8 mmol). After warming the mixture to −40° C., it was transferred via double-tipped needle to a −78° C. ether solution of 2-chloro-3-nitrobenzaldehyde (1.0 g, 5.6 mmol), which can be synthesized according to the procedure in J. Med. Chem. 1088, 31, 936-944. The reaction was allowed to slowly warm to rt and was quenched with the addition of MeOH and water. The layers were separated, and the aqueous phase was extracted with EtOAc. The combined organic phases were washed with brine, dried over MgSO4 and concentrated to an oil. The crude material was purified by flash column chromatography (10% EtOAc:hexanes) to give 0.98 g of the racemic compound (84%). The enantiomers were separated using packed column supercritical fluid chromatography (SFC) on a 3×25 cm Dalcel® AD-H column with a 90 g/min total flow (81 q/min CO2-90%) (9 g/min MeOH-10%) to give the title compound as a yellow oil. 1H NMR (400 MHz, d6-DMSO) δ 7.86 (m, 1H), 7.58 (m, 1H), 5.62 (d, J=4.4 Hz, 1H), 5.06 (m, 1H), 1.30 (d, J=6.4 Hz, 3H).

reactant | methyl lithium | C[Li]
reactant | 2-chloro-3-nitrobenzaldehyde | 5.6 mmol, 1.0 g | ClC1=C(C=O)C=CC=C1[N+](=O)[O-] | C7H4ClNO3
catalyst | titanium (IV) chloride | 7.8 mmol, 0.85 mL | [Ti](Cl)(Cl)(Cl)Cl
solvent | ether | CCOCC | C4H10O
solvent | ether | 7.8 mmol, 4.9 ml | CCOCC | C4H10O
product | (1S)-1-(2-Chloro-3-nitrophenyl)ethanol | 0.98 g, 84% | ClC1=C(C=CC=C1[N+](=O)[O-])[C@H](C)O | C8H8ClNO3
